US04130561
4-Adamantoyloxy-N-methyl-N-(2-pyrrolidinoethyl)aniline Dihydrochloride Dihydrate
To an ice-MeOH cooled solution of 2.0 g. (0.0078 mole) of N-Methyl-p-(1-adamantyloxy)aniline in 20 ml. THF was added 4.75 ml. of 1.64 N Buli in pentane. A solution of a 1:1 mixture of toluene, and 1-chloro-2-pyrrolidino ethane (2.08 g.) in 20 ml. THF was then added and the mixture stirred at room temperature for 1 hour and at reflux for 18 hours. The solution was allowed to cool, diluted with C6H6 and washed with H2O and brine. The residue remaining when the organic fraction was taken to dryness was dissolved in CH2Cl2, treated with 10 ml. HCl saturated Et2O and taken to dryness The residual solid was recrystallized from CH2Cl2 :CH3CN to yield 1.93 g. (55%) of 4-adamantyloxy-N-methyl-N-(2-pyrrolidinoethyl)aniline dihydrochloride dihydrate, m.p. 189°-190° (efervess).

reactant | N-Methyl-p-(1-adamantyloxy)aniline | 0.0078 mole | CNC1=CC=C(C=C1)OC12CC3CC(CC(C1)C3)C2 | C17H23NO
reactant | 1-chloro-2-pyrrolidino ethane | 2.08 g | ClCCN1CCCC1 | C6H12ClN
reactant | 4-adamantyloxy-N-methyl-N-(2-pyrrolidinoethyl)aniline dihydrochloride dihydrate | O.O.Cl.Cl.C12(CC3CC(CC(C1)C3)C2)OC2=CC=C(N(CCN3CCCC3)C)C=C2
solvent | pentane | CCCCC | C5H12
solvent | C6H6 | C1=CC=CC=C1 | C6H6
solvent | THF | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Adamantoyloxy-N-methyl-N-(2-pyrrolidinoethyl)aniline Dihydrochloride Dihydrate | O.O.Cl.Cl.C12(CC3CC(CC(C1)C3)C2)C(=O)OC2=CC=C(N(CCN3CCCC3)C)C=C2 | InChI=1S/C24H34N2O2.2ClH.2H2O/c1-25(10-11-26-8-2-3-9-26)21-4-6-22(7-5-21)28-23(27)24-15-18-12-19(16-24)14-20(13-18)17-24;;;;/h4-7,18-20H,2-3,8-17H2,1H3;2*1H;2*1H2
